US05246965
To a solution of 5.1 g (41 mmol) of guaiacol in 41 mL of DMF, cooled in an icebath, is added in portions, 20 g (41 mmole) of sodium hydride (50% dispersion in oil). The reaction is allowed to warm up to room temperature and stirred until no further hydrogen evolution is observed. The solution is then again cooled in an ice-bath and a solution of 13 g (41 mmol) 4-(5-iodopentoxy) benzonitrile in 82 mL DMF added. The reaction is allowed to warm up to room temperature and stirred for 18 h before pouring the mixture into water. The resulting solid is filtered off and dried to give 4-[5-(2-methoxyphenoxy)pentoxy] benzonitrile, m.p. 61°-63° C.

reactant | guaiacol | 41 mmol, 5.1 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | sodium hydride | 41 mmole, 20 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-(5-iodopentoxy) benzonitrile | 41 mmol, 13 g | ICCCCCOC1=CC=C(C#N)C=C1 | C12H14INO
solvent | DMF | 41 mL | CN(C)C=O | C3H7NO
solvent | DMF | 82 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[5-(2-methoxyphenoxy)pentoxy] benzonitrile | COC1=C(OCCCCCOC2=CC=C(C#N)C=C2)C=CC=C1 | C19H21NO3
